US07846960B2
3-Acetyl-2-methoxyimino-5-methyl-hexanoic Acid Ethyl Ester
To a solution of 2-methoxyimino-4-oxo-pentanoic acid ethyl ester (2.62 g, 14 mmol) in DMF (30 mL) is added potassium carbonate (2.5 g, 18.2 mmol) followed by 1-iodo-2-methyl-propane (1.62 mL, 14 mmol) and the mixture is stirred at ambient temperature overnight. Additional 1-iodo-2-methyl-propane (0.8 mL, 7 mmol) is added and the mixture is stirred at 60° C. for 1 hour. The reaction mixture is diluted with EtOAc and is adjusted to pH 3 with 1N HCl. The organic layer is washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. The residue is purified by column chromatography (0 to 20% EtOAc in hexanes) to give the title compound as a colorless oil (1 g, 29%). 1H NMR (400 MHz, CDCl3) δ 4.33 (q, 2H), 4.06 (s, 3H), 4.03 (dd, 1H), 2.07 (s, 3H), 1.88 (m, 1H), 1.58 (m, 1H), 1.43 (m, 1H), 1.37 (t, 3H), 0.89 (d, 6H).

reactant | 2-methoxyimino-4-oxo-pentanoic acid ethyl ester | 14 mmol, 2.62 g | C(C)OC(C(CC(C)=O)=NOC)=O | C8H13NO4
reactant | potassium carbonate | 18.2 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2-methyl-propane | 14 mmol, 1.62 mL | ICC(C)C | C4H9I
reactant | 1-iodo-2-methyl-propane | 7 mmol, 0.8 mL | ICC(C)C | C4H9I
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Acetyl-2-methoxyimino-5-methyl-hexanoic Acid Ethyl Ester | 1 g, 29% | C(C)OC(C(C(CC(C)C)C(C)=O)=NOC)=O | C12H21NO4
